US08802670B2
4-(2-Chloro-4-morpholin-4-yl-thieno[2,3-d]pyrimidine-6-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester (1.61 g) was treated with an excess of hydrogen chloride in diethyl ether at room temperature overnight. Removal of volatiles and basification with aqueous sodium hydrogen chloride afforded 2-chloro-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[2,3-d]pyrimidine (0.90 g).

reactant | 4-(2-Chloro-4-morpholin-4-yl-thieno[2,3-d]pyrimidine-6-ylmethyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.61 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC2=C(N=C(N=C2N2CCOCC2)Cl)S1 | C20H28ClN5O3S
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-chloro-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[2,3-d]pyrimidine | 0.90 g | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCNCC2)N2CCOCC2 | C15H20ClN5OS
